US05158956
Preparation of 2-Di-n-propylamino-8-thiophenyl-1,2,3,4-tetrahydronaphthalene
Using the procedure described in Example 1, 8-bromo-2-di-n-propylamino-1,2,3,4-tetrahydronaphthalene (930 mg, 3.0 mMol) was reacted with diphenyl disulfide (720 mg, 3.3 mMol) to give the title compound as a colorless oil. The fumarate salt was formed. Recrystallization (acetone/diethyl ether) gave colorless crystals (270 mg, 20%, m.p.=133°-135° C.).

reactant | 8-bromo-2-di-n-propylamino-1,2,3,4-tetrahydronaphthalene | 3.0 mMol, 930 mg | BrC=1C=CC=C2CCC(CC12)N(CCC)CCC | C16H24BrN
reactant | diphenyl disulfide | 3.3 mMol, 720 mg | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
product | 2-Di-n-propylamino-8-thiophenyl-1,2,3,4-tetrahydronaphthalene | C(CC)N(C1CC2=C(C=CC=C2CC1)C=1SC=CC1)CCC | C20H27NS
